US05002967
Methyl 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]sulfinyl]propanoate
A mixture of methyl 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate (0.5 g, 1.5 mmole) and meta-chloroperoxybenzoic acid (0.32 g, 1.5 mmole) in dichloromethane (25 ml) was stirred under argon for 12 hours. Excess peroxide was destroyed with saturated aqueous potassium bisulfite and the phases were separated. The organic layer was washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo to dryness Recrystallization from diethyl ether and dichloromethane gave the title compound m.p. 106°-108°.

reactant | methyl 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate | 1.5 mmole, 0.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)OC | C18H28O3S
reactant | meta-chloroperoxybenzoic acid | 1.5 mmole, 0.32 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Methyl 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]sulfinyl]propanoate | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S(=O)CCC(=O)OC | C18H28O4S
